US06573270B1
N-[4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazol-5-yl]-2,1,3-benzothiadiazole-4-sulfonamide
To a solution of 4-dimethylaminopyridine in anhydrous pyridine at 0° C. under an atmosphere of nitrogen was added 2,1,3-benzothiadiazole-4-sulfonyl chloride (142 mg) in pyridine (1.5 ml). After 10 min the reaction was treated with 5-amino-4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazole (Preparation 43) (100 mg) and the reaction was allowed to warm to room temperature and stirred for 12 h. The reaction was concentrated under reduced pressure, the residue diluted with brine (100 ml) and extracted with dichloromethane (3×50 ml). The combined organic fractions were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by HPLC (eluent of 55% water in acetonitrile to 30% water in acetonitrile over 8 mins, then 30% water in acetonitrile for 13 mins. Phenomenex Magellen™ 150 mm×21.5 mm column, 40° C.) to yield the title compound as an off-white solid (7 mg).

reactant | 2,1,3-benzothiadiazole-4-sulfonyl chloride | 142 mg | N=1SN=C2C1C=CC=C2S(=O)(=O)Cl | C6H3ClN2O2S2
reactant | 5-amino-4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazole | 100 mg | NC1=C(C(=NN1C)OC)C1=CC2=C(OCO2)C=C1 | C12H13N3O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazol-5-yl]-2,1,3-benzothiadiazole-4-sulfonamide | 7 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=CC=CC1=NSN=C12)C)OC | C18H15N5O5S2
